US04024139
6-Chloro-2-(3-chloropropyl)-2,3-dihydro-3-hydroxy-4H-1,3-benzoxazin-4-one was prepared by adding 250 ml. of glacial acetic acid saturated with hydrogen chloride gas to 37 g. of 5-chlorosalicylhydroxamic acid. 4-Chlorobutyraldehyde diethyl acetal (34 g.) and 50 ml. of glacial acetic acid saturated with hydrogen chloride gas were then added simultaneously with stirring at a rate to maintain a temperature of 25° to 40° C. The resulting mixture was stirred and heated at 55° to 60° C. for 2 hours and then allowed to stand at room temperature overnight. Mixture was poured into a mixture of ice and water, and when oil solidified it was removed by filtrating, washed with water, and air-dried. The crude product weighed 31.5 g. and melted at 70°-75° C. A sample recrystallized from ligroin at 80°-81° C.

reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | hydrogen chloride | Cl | ClH
reactant | 5-chlorosalicylhydroxamic acid | ClC1=CC=C(C(C(=O)NO)=C1)O | C7H6ClNO3
reactant | 4-Chlorobutyraldehyde diethyl acetal | 34 g | C(C)OC(CCCCl)OCC | C8H17ClO2
solvent | water | O | H2O
product | 6-Chloro-2-(3-chloropropyl)-2,3-dihydro-3-hydroxy-4H-1,3-benzoxazin-4-one | ClC=1C=CC2=C(C(N(C(O2)CCCCl)O)=O)C1 | C11H11Cl2NO3
